US07338959B2
2-(4-{4-[Methyl-(1-methyl-2-phenethylamino-1H-benzoimidazol-5-yl)-amino]-pyrimidin-2-ylamino}-phenyl)-ethanesulfonic acid methylamide hydrochloride
The title compound was prepared following the procedure of example 1 with N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-phenethyl-1H-benzoimidazole-2,5-diamine (98 mg, 0.25 mmol) and 2-(4-amino-phenyl)-ethanesulfonic acid methylamide (54 mg, 0.25 mmol) as a white solid (100 mg, 66%). 1H NMR (300 MHz, d6-DMSO) δ 9.30 (s, 1H), 7.82 (d, J=6.0 Hz, 1H), 7.65 (d, J=8.4 Hz, 2H), 7.43 (d, J=8.4 Hz, 1H), 7.20-7.33 (m, 5H), 7.06-7.14 (m, 3H), 6.98 (q, J=6.2 Hz, 1H), 5.70 (d, J=6.0 Hz, 1H), 3.65 (m, 2H), 3.60 (s, 3H), 3.45 (s, 3H), 3.21-3.26 (m, 2H), 2.95-3.00 (M, 2H), 2.84-2.90 (m, 2H), 2.59 (d, J=5.1 Hz, 3H) ppm. MS (ESI) m/z=571 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-1,N5-dimethyl-N2-phenethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 98 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCCC2=CC=CC=C2)C)C=C1)C | C21H21ClN6
reactant | 2-(4-amino-phenyl)-ethanesulfonic acid methylamide | 0.25 mmol, 54 mg | CNS(=O)(=O)CCC1=CC=C(C=C1)N | C9H14N2O2S
product | 2-(4-{4-[Methyl-(1-methyl-2-phenethylamino-1H-benzoimidazol-5-yl)-amino]-pyrimidin-2-ylamino}-phenyl)-ethanesulfonic acid methylamide hydrochloride | Cl.CNS(=O)(=O)CCC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NCCC2=CC=CC=C2)C)C=C1)C | InChI=1S/C30H34N8O2S.ClH/c1-31-41(39,40)20-17-23-9-11-24(12-10-23)34-29-32-19-16-28(36-29)37(2)25-13-14-27-26(21-25)35-30(38(27)3)33-18-15-22-7-5-4-6-8-22;/h4-14,16,19,21,31H,15,17-18,20H2,1-3H3,(H,33,35)(H,32,34,36);1H
